US07897773B2
1 g of tert-butyl 3-{[(trifluoromethyl)sulfonyl]oxy}-8-azabicyclo[3.2.1]oct-2-ene-8-carboxylate, 0.975 g of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine, 0.24 g of lithium chloride, 1.78 g of potassium phosphate, 0.157 g of 2′-(dimethylamino)-2-biphenylpalladium(II)chloride dinorbornylphosphine and 10 ml of dioxane are introduced into an 80 ml glass tube. The tube is sealed and then heated at 100° C. under microwave irradiation for 30 minutes. Water and ethyl acetate are added. The aqueous phase is extracted three times with ethyl acetate. The organic phases are combined and dried over sodium sulfate and the solvent is evaporated off under reduced pressure. The residue is chromatographed on silica gel with a mixture of heptane/ethyl acetate. 0.458 g of tert-butyl 3-pyridin-4-yl-8-azabicyclo[3.2.1]oct-2-ene-8-carboxylate is obtained.

reactant | tert-butyl 3-{[(trifluoromethyl)sulfonyl]oxy}-8-azabicyclo[3.2.1]oct-2-ene-8-carboxylate | 1 g | FC(S(=O)(=O)OC1=CC2CCC(C1)N2C(=O)OC(C)(C)C)(F)F | C13H18F3NO5S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.975 g | CC1(OB(OC1(C)C)C1=CC=NC=C1)C | C11H16BNO2
reactant | lithium chloride | 0.24 g | [Cl-].[Li+]
reactant | potassium phosphate | 1.78 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | 2′-(dimethylamino)-2-biphenylpalladium(II)chloride dinorbornylphosphine | 0.157 g | CN(C)C1=CC=CC=C1C2=CC=CC=[C-]2.C1C[C@H]2C[C@@H]1CC2PC3C[C@H]4CC[C@@H]3C4.Cl[Pd+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | tert-butyl 3-pyridin-4-yl-8-azabicyclo[3.2.1]oct-2-ene-8-carboxylate | 0.458 g | N1=CC=C(C=C1)C1=CC2CCC(C1)N2C(=O)OC(C)(C)C | C17H22N2O2
